US03959322
13β-Ethyl-17β-methoxy-gon-4-en-3-one
Add 13β-ethyl-3, 17β-dimethoxy-gona-2,5(10)-diene (0.8 g.) in tetrahydrofuran (5 cc.) to methanol (72 cc.) in an atmosphere of nitrogen and add a mixture of hydrochloric acid (4.8 cc.) and water (3.2 cc.). Add a further 10 cc. of tetrahydrofuran and after 1 hour dilute the solution with water and extract with ether. Wash, dry and evaporate the ethereal extracts and chromatograph the residue on neutral alumina. Remove impurities by elution with benzene. Wash the column with ether, evaporate the eluate and recrystallize the residue from hexane to obtain the title compound (0.2 g.), m.p. 117°-119°; ultraviolet absorption ξ max. 240 mμ (ε15,800); infrared spectrum (KBr disc) 6.0, 6.2, 8.8, 9.05 μ.

reactant | 13β-ethyl-3, 17β-dimethoxy-gona-2,5(10)-diene | 0.8 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)OC | C21H32O2
reactant | methanol | 72 cc | CO | CH4O
reactant | hydrochloric acid | 4.8 cc | Cl | ClH
solvent | tetrahydrofuran | 5 cc | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 3.2 cc | O | H2O
product | 13β-Ethyl-17β-methoxy-gon-4-en-3-one | 0.2 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC | C20H30O2
